US05994368
A mixture of 4-chloro-8-hydroxy-2-methylquinoline (500 mg), N,N-dimethylethylenediamine (341 mg) and phenol (486 mg) was heated at 125° C. for 18 hours. After cooling the reaction mixture, acetone (5 ml) was added thereto. The precipitates were collected by filtration and recrystallized from acetonitrile to give 4-(2-dimethylaminoethylamino)-8-hydroxy-2-methylquinoline hydrochloride (415 mg)) as brown crystals.

reactant | 4-chloro-8-hydroxy-2-methylquinoline | 500 mg | ClC1=CC(=NC2=C(C=CC=C12)O)C | C10H8ClNO
reactant | N,N-dimethylethylenediamine | 341 mg | CN(CCN)C | C4H12N2
reactant | phenol | 486 mg | C1(=CC=CC=C1)O | C6H6O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 4-(2-dimethylaminoethylamino)-8-hydroxy-2-methylquinoline hydrochloride | 415 mg | Cl.CN(CCNC1=CC(=NC2=C(C=CC=C12)O)C)C | InChI=1S/C14H19N3O.ClH/c1-10-9-12(15-7-8-17(2)3)11-5-4-6-13(18)14(11)16-10;/h4-6,9,18H,7-8H2,1-3H3,(H,15,16);1H
